US04341775
A solution of 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-(4-amino-5-methyl-4H-1,2,4-triazol-3-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.45 g.), and conc. hydrochloric acid (1.1 g.) in methanol (10.2 ml.) was treated in a similar manner to that of Example 8-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-(3-aminopropoxyimino)acetamido]-3-(4-amino-5-methyl-4H-1,2,4-triazol-3-yl)thiomethyl-3-cephem-4-carboxylic acid trihydrochloride (syn isomer, 1.21 g.)

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-(4-amino-5-methyl-4H-1,2,4-triazol-3-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.45 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(N2N)C)C(=O)O)C1=O)=NOCCCNC(=O)OC(C)(C)C | C25H32N10O8S3
reactant | hydrochloric acid | 1.1 g | Cl | ClH
solvent | methanol | 10.2 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(3-aminopropoxyimino)acetamido]-3-(4-amino-5-methyl-4H-1,2,4-triazol-3-yl)thiomethyl-3-cephem-4-carboxylic acid trihydrochloride | 1.21 g | Cl.Cl.Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(N2N)C)C(=O)O)C1=O)=NOCCCN | InChI=1S/C19H24N10O5S3.3ClH/c1-8-25-26-19(29(8)22)37-6-9-5-35-16-12(15(31)28(16)13(9)17(32)33)24-14(30)11(27-34-4-2-3-20)10-7-36-18(21)23-10;;;/h7,12,16H,2-6,20,22H2,1H3,(H2,21,23)(H,24,30)(H,32,33);3*1H/t12?,16-;;;/m1.../s1
